US04536505
A solution of 1.1 g of 3-[2-(ethoxycarbonyl)-prop-1-enyl)-N-(3-pyridyl)indole, and 0.288 g of sodium hydroxide in 10 ml of methanol and 10 ml of water is heated under reflux for 2 hours, cooled and evaporated. The resulting oil is redissolved in 10 ml of ice water and is neutralized with 0.59 ml of concentrated hydrochloric acid. The resulting solid is filtered and dried to yield 3-(2carboxyprop-1-enyl)-N-(3-pyridyl)indole, m.p. 213°-215°.

reactant | 3-[2-(ethoxycarbonyl)-prop-1-enyl)-N-(3-pyridyl)indole | 1.1 g | C(C)OC(=O)C(=CC1=CN(C2=CC=CC=C12)C=1C=NC=CC1)C | C19H18N2O2
reactant | sodium hydroxide | 0.288 g | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 3-(2carboxyprop-1-enyl)-N-(3-pyridyl)indole | C(=O)(O)C(=CC1=CN(C2=CC=CC=C12)C=1C=NC=CC1)C | C17H14N2O2
